US06668527B2
D. 2-[5-(2-Amino-2-ethoxycarbonyl-ethyl)-isoxazol-3-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester hydrocloride
2-{5-[2-(Benzhydrylidene-amino)-2-ethoxycarbonyl-ethyl]-isoxazol-3-yl}-pyrrolidine-1-carboxylic acid tert-butyl ester (700 mg, 1.35 mmol) was stirred in a mixture of ethyl acetate (20 mL) and 1N hydrochloric acid (100 mL) for 3 hours. The reaction was neutralized by the addition of saturated sodium bicarbonate. The aqueous portion was extracted with diethyl ether. The combined organics were dried over magnesium sulfate and the solvent removed in vacuo. The resulting oil (200 mg) was used directly in example 14C.

reactant | 2-{5-[2-(Benzhydrylidene-amino)-2-ethoxycarbonyl-ethyl]-isoxazol-3-yl}-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.35 mmol, 700 mg | C(C)(C)(C)OC(=O)N1C(CCC1)C1=NOC(=C1)CC(C(=O)OCC)N=C(C1=CC=CC=C1)C1=CC=CC=C1 | C30H35N3O5
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | hydrochloric acid | 1N, 100 mL | Cl | ClH
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 2-[5-(2-Amino-2-ethoxycarbonyl-ethyl)-isoxazol-3-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester hydrocloride | Cl.C(C)(C)(C)OC(=O)N1C(CCC1)C1=NOC(=C1)CC(C(=O)OCC)N | InChI=1S/C17H27N3O5.ClH/c1-5-23-15(21)12(18)9-11-10-13(19-25-11)14-7-6-8-20(14)16(22)24-17(2,3)4;/h10,12,14H,5-9,18H2,1-4H3;1H
